US07507740B2
(v) Production of (2E)-3-[5-ethyl-4-({3-methyl-4-[(6-methylpyridin-3-yl)oxy]phenyl}amino)-5H-pyrrolo[3,2-d]pyrimidin-6-yl]-2-propen-1-ol
A mixture of 6-((1E)-3-{[tert-butyl(dimethyl)silyl]oxy}-1-propenyl)-5-ethyl-4-phenoxy-5H-pyrrolo[3,2-d]pyrimidine (78 mg), 3-methyl-4-[(6-methylpyridin-3-yl)oxy]aniline (61.2 mg), pyridine hydrochloride (26 mg) and phenol (122 mg) was stirred with heating at 120° C. for 16 hrs. After cooling to room temperature, the mixture was diluted with dichloromethane (30 mL), and washed with saturated aqueous sodium hydrogen carbonate (20 mL). The organic layer was dried over magnesium sulfate and concentrated under reduced pressure. The residue was separated and purified by basic silica gel column chromatography (eluent, ethyl acetate:methanol=100:0→80:20) to give the title compound (32 mg) as a powder.

reactant | 6-((1E)-3-{[tert-butyl(dimethyl)silyl]oxy}-1-propenyl)-5-ethyl-4-phenoxy-5H-pyrrolo[3,2-d]pyrimidine | 78 mg | [Si](C)(C)(C(C)(C)C)OC/C=C/C1=CC=2N=CN=C(C2N1CC)OC1=CC=CC=C1 | C23H31N3O2Si
reactant | 3-methyl-4-[(6-methylpyridin-3-yl)oxy]aniline | 61.2 mg | CC=1C=C(N)C=CC1OC=1C=NC(=CC1)C | C13H14N2O
reactant | pyridine hydrochloride | 26 mg | Cl.N1=CC=CC=C1
reactant | phenol | 122 mg | C1(=CC=CC=C1)O | C6H6O
solvent | dichloromethane | 30 mL | ClCCl | CH2Cl2
product | (2E)-3-[5-ethyl-4-({3-methyl-4-[(6-methylpyridin-3-yl)oxy]phenyl}amino)-5H-pyrrolo[3,2-d]pyrimidin-6-yl]-2-propen-1-ol | 32 mg | C(C)N1C(=CC=2N=CN=C(C21)NC2=CC(=C(C=C2)OC=2C=NC(=CC2)C)C)/C=C/CO | C24H25N5O2
